US07378417B2
3-Amino-N-pyridin-3-ylmethyl-benzenesulfonamide
Hydrogenation of a stirred solution of 3-nitro-N-pyridin-3-ylmethyl-benzenesulfonamide [CAS-No. 436095-43-1; commercially available] (1.42 g, 4.84 mmol) in methanol (90 ml) and THF (50 ml) on palladium/carbon (10%, 0.14 g) for 2 h at room temperature yielded after removal of the catalyst by filtration, evaporation and crystallization from ethyl acetate/hexane the title compound (1.15 g, 90%) as a light yellow solid. MS (ISP) 264.1 [(M+H)+]; mp 129° C.

reactant | 3-nitro-N-pyridin-3-ylmethyl-benzenesulfonamide | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)NCC=1C=NC=CC1 | C12H11N3O4S
reactant | THF | 50 ml | C1CCOC1 | C4H8O
solvent | methanol | 90 ml | CO | CH4O
product | 3-Amino-N-pyridin-3-ylmethyl-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NCC=1C=NC=CC1 | C12H13N3O2S
